US05105017
4-(4-Acetyl-3-hydroxy-2-propylbenzyloxy)-1-butanol
To a suspension of 9.6 g. of a 50% oil dispersion of sodium hydride in 100 ml. of 1,4-butanediol were added 11.3 g. of 4-acetyl-3-hydroxy-2-propylbenzyl chloride. The reaction was stirred overnight at room temperature and then heated to 60° C. for six hours. The reaction mixture was then poured into water and extracted with ethyl acetate. The ethyl acetate solution was evaporated to dryness and the residue was purified by chromatography over silica gel to provide 4.1 g. of the desired title product. NMR.

reactant | sodium hydride | [H-].[Na+]
reactant | 1,4-butanediol | C(CCCO)O | C4H10O2
reactant | 4-acetyl-3-hydroxy-2-propylbenzyl chloride | C(C)(=O)C1=C(C(=C(CCl)C=C1)CCC)O | C12H15ClO2
solvent | water | O | H2O
product | 4-(4-Acetyl-3-hydroxy-2-propylbenzyloxy)-1-butanol | C(C)(=O)C1=C(C(=C(COCCCCO)C=C1)CCC)O | C16H24O4
